US06608203B2
1-Cyclohexyl-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline
A stirred solution of cyclohexanecarboxylic acid [2-(3-methoxy-phenyl)-ethyl]-phenyl-amide in POCl3 under an atmosphere of N2 was heated at reflux for 14 hours. The solution was allowed to cool to rt and concentrated in vacuo. The residue was taken up in CH2Cl2 (30 ml) and washed with sat. NaHCO3 until CO2 evolution ceased. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was dissolved in MeOH (20 ml), cooled to 0° C., and NaBH4 (0.105 g, 2.77 mmol) was added in a portionwise manner. The reaction was stirred for 2 hours at 0° C., then additional NaBH4 (0.105 g, 2.77 mmol) was added. The reaction was stirred at rt overnight, diluted with CH2Cl2 (50 ml), and washed with sat. NaHCO3 solution (1×50 ml). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo, to give the desired compound as a yellow oil (0.234 g, 0.729 mmol, 73% yield).

reactant | cyclohexanecarboxylic acid [2-(3-methoxy-phenyl)-ethyl]-phenyl-amide | COC=1C=C(C=CC1)CCN(C(=O)C1CCCCC1)C1=CC=CC=C1 | C22H27NO2
reactant | NaBH4 | 2.77 mmol, 0.105 g | [BH4-].[Na+]
reactant | NaBH4 | 2.77 mmol, 0.105 g | [BH4-].[Na+]
solvent | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Cyclohexyl-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.729 mmol, 0.234 g, 73% yield | C1(CCCCC1)C1N(CCC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C22H27NO
